Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Chest pain/pressure
 
Major Surgical or Invasive Procedure:
___ Coronary Artery Bypass Grafting

 
History of Present Illness:
___ year old male who presented to ___ with chest 
pain/pressure. Per report he had multiple hours of chest pain on 
___ which eventually self resolved, but re developed the 
following afternoon which prompted his presentation to the ___. 
Associating symptoms include headache, neck and back pain, and 
belching. Pt associated the belching to a meal he had eaten for 
which he took Tums. He denied nausea, vomiting, dizziness, or 
visual changes. He denies any previous chest pain/pressure, but 
does report occasional shortness of breath with climbing stairs. 
He has traveled to ___ multiple times over the past year. 
Denies leg swelling or calf pain.

Per report EKG showed SR with borderline inferior ST elevations. 
D dimer was negative, CTA showed no dissection, but possible 
esophagitis for which he was started on PPI. CTA neck showed 2mm 
sacular aneurysm of the left internal carotid artery, no 
stenosis or occlusion.  

Pt received Nitro x2 in ___, Effient, and a Heparin gtt was 
started. Pt had a cardiac cath ___ at ___ 
which showed 3V disease. He was transferred to ___ for 
surgical evaluation. Currently chest pain free.

 
Past Medical History:
Coronary Artery disease
s/p tonsillectomy/adenoidectomy

 
Social History:
___
Family History:
Brother ___ in his ___, 
Father ___ in his ___,
Mother CVA in her ___

 
Physical Exam:
PREOPERATIVE EXAM

97.9 PO 131/81 82 20 97 Ra 
Height: 207 lbs    Weight: 67 in

General:
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur [] grade ______ 
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+[x]
Extremities: Warm [x], well-perfused [x]  Edema [] _____
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
Femoral      Right:   Left:
DP           Right: + Left:+
___           Right: + Left:+
Radial       Right: + Left:+
Carotid Bruit: Right:-    Left:-
.
DSICHARGE EXAM - PENDING
General: NAD [x]  
Neurological: A/O x3 [x] Moves all extremities [x] Follows
commands [x]
HEENT:  PEERLA [] 
Cardiovascular: RRR [x] + Rub  
Respiratory: CTA [x]  No resp distress [x] Diminished at bases 
GI/Abdomen: Bowel sounds present [x] Soft [x] ND [x] NT [x]
Extremities: 
Right Upper extremity   Warm [x]  Edema tr  
Left Upper extremity    Warm [x]  Edema tr 
Right Lower extremity   Warm [x]  Edema tr 
Left Lower extremity    Warm [x]  Edema tr 
Skin/Wounds: Dry [x] intact [x] Left groin ecchymosis 
Sternal: CDI [x] no erythema or drainage [x]
                 Sternum stable [] Prevena []
Lower extremity: Right [x] Left []  CDI [x]

98.6, 113/73, 102 bpm, 16, 95% RA

 
Pertinent Results:
___ 09:03PM BLOOD WBC-6.0 RBC-4.96 Hgb-15.7 Hct-44.1 MCV-89 
MCH-31.7 MCHC-35.6 RDW-12.7 RDWSD-40.9 Plt ___
___ 09:03PM BLOOD ___ PTT-28.7 ___
___ 09:03PM BLOOD Glucose-88 UreaN-14 Creat-0.9 Na-141 
K-3.9 Cl-106 HCO3-22 AnGap-13
___ 09:03PM BLOOD ALT-26 AST-36 LD(LDH)-359* AlkPhos-39* 
TotBili-1.0
___ 09:03PM BLOOD Albumin-3.8 Calcium-8.7 Phos-3.0 Mg-2.0
___ 09:03PM BLOOD %HbA1c-5.2 eAG-103

___ PA and Lateral:
The right IJ line has been removed in the interim.  Lungs are 
low volume with
bibasilar atelectasis.  There are small bilateral effusions. 
Cardiomediastinal silhouette is stable.  No pneumothorax is seen

___ 04:56AM BLOOD WBC-5.0 RBC-2.41* Hgb-7.4* Hct-22.1* 
MCV-92 MCH-30.7 MCHC-33.5 RDW-13.0 RDWSD-42.2 Plt ___
___ 04:56AM BLOOD Plt ___
___ 04:56AM BLOOD Glucose-114* UreaN-21* Creat-0.9 Na-139 
K-4.0 Cl-102 HCO3-26 AnGap-11
___ 04:56AM BLOOD Calcium-8.1* Phos-2.5* Mg-2.2
 
Brief Hospital Course:
The patient was brought to the Operating Room on ___ where 
the patient underwent Coronary artery bypass grafting x 4 with 
left internal mammary artery to left anterior descending artery 
and reverse saphenous vein graft to the right coronary artery, 
obtuse marginal artery and the first diagonal artery.  Overall 
the patient tolerated the procedure well and post-operatively 
was transferred to the CVICU in stable condition for recovery 
and invasive monitoring.  

 POD 1 found the patient extubated, alert and oriented and 
breathing comfortably.  The patient was neurologically intact 
and hemodynamically stable.  Beta blocker was initiated and the 
patient was gently diuresed toward the preoperative weight.  The 
patient was transferred to the telemetry floor for further 
recovery.  Chest tubes and pacing wires were discontinued 
without complication.  The patient was evaluated by the Physical 
Therapy service for assistance with strength and mobility.  By 
the time of discharge on POD 4 the patient was ambulating 
freely, the wound was healing and pain was controlled with oral 
analgesics.  The patient was discharged to home in good 
condition with appropriate follow up instructions.
 
Medications on Admission:
NoneThe Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Aspirin EC 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*1 
3.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*1 
4.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*30 Tablet Refills:*0 
5.  Furosemide 20 mg PO DAILY Duration: 7 Days 
RX *furosemide 20 mg 1 tablet(s) by mouth once a day Disp #*7 
Tablet Refills:*0 
6.  HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Moderate 
RX *hydromorphone [Dilaudid] 2 mg 1 tablet(s) by mouth every 
four (4) hours Disp #*40 Tablet Refills:*0 
7.  Metoprolol Tartrate 50 mg PO TID 
RX *metoprolol tartrate 50 mg 1 tablet(s) by mouth three times a 
day Disp #*90 Tablet Refills:*1 
8.  Potassium Chloride 20 mEq PO DAILY Duration: 7 Days 
RX *potassium chloride 20 mEq 1 tablet(s) by mouth once a day 
Disp #*7 Tablet Refills:*0 
9.  Ranitidine 150 mg PO BID Duration: 30 Days 
RX *ranitidine HCl 150 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
10.  Senna 17.2 mg PO BID:PRN Constipation - Second Line 
RX *sennosides [senna] 8.6 mg 2 tablets by mouth twice a day 
Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary Artery Disease CABG x 4(LIMA- LAD, SVG- OM,- PDA,-diag 
___
 
Discharge Condition:
Alert and oriented x3, non-focal
 Ambulating, gait steady
 Sternal pain managed with oral analgesics
 Sternal Incision - healing well, no erythema or drainage
 Edema-trace

 
Discharge Instructions:
Please shower daily -wash incisions gently with mild soap, no 
baths or swimming, look at your incisions daily
 Please - NO lotion, cream, powder or ointment to incisions
 Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
 No driving for approximately one month and while taking 
narcotics

Clearance to drive will be discussed at follow up appointment 
with surgeon
 No lifting more than 10 pounds for 10 weeks

Encourage full shoulder range of motion, unless otherwise 
specified
 **Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
 
Followup Instructions:
___